US07807686B2
To a suspension of 2-[2-(3-chloro-4-fluorophenyl)-6-(3-chloropropoxy)-4-oxo-4H-quinazolin-3-yl]-N-isopropylacetamide (120 mg, 0.26 mmol) in acetonitrile (1 mL) was added K2CO3 (178 mg, 1.29 mmol), piperidine (0.76 mL, 0.77 mmol) and sodium iodide (20 mg, 0.13 mmol). The resultant mixture was heated to 80° C. in a tightly capped vial with stirring for 20 h. The mixture was then cooled to room temperature and poured into ice water (8 mL). The resultant white solid was collected by filtration and the filter cake was washed with cold diethyl ether (3×10 mL). The crude product was purified by chromatography on silica gel with methanol:dichloromethane (1:9, v/v) as eluent to afford 2-[2-(3-chloro-4-fluorophenyl)-4-oxo-6-(3-piperidin-1-ylpropoxy)-4H-quinazolin-3-yl]-N-isopropylacetamide (120 mg, 0.23 mmol, 91%). The HCl salt was prepared by treating the freebase with 5% HCl in ethanol (xs.) followed by removal of the ethanolic HCl in vacuo. The resultant HCl salt was redissolved in ethanol and the ethanol removed in vacuo (3×) to help remove residual HCl. The HCl salt thus obtained was then triturated with diethyl ether and collected by filtration affording 2-[2-(3-chloro-4-fluorophenyl)-4-oxo-6-(3-piperidin-1-ylpropoxy)-4H-quinazolin-3-yl]-N-isopropylacetamide hydrochloride (EXAMPLE 2a) as a white crystalline solid.

reactant | 2-[2-(3-chloro-4-fluorophenyl)-6-(3-chloropropoxy)-4-oxo-4H-quinazolin-3-yl]-N-isopropylacetamide | 0.26 mmol, 120 mg | ClC=1C=C(C=CC1F)C1=NC2=CC=C(C=C2C(N1CC(=O)NC(C)C)=O)OCCCCl | C22H22Cl2FN3O3
reactant | K2CO3 | 1.29 mmol, 178 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | piperidine | 0.77 mmol, 0.76 mL | N1CCCCC1 | C5H11N
reactant | sodium iodide | 0.13 mmol, 20 mg | [I-].[Na+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 2-[2-(3-chloro-4-fluorophenyl)-4-oxo-6-(3-piperidin-1-ylpropoxy)-4H-quinazolin-3-yl]-N-isopropylacetamide | 0.23 mmol, 120 mg, 91% | ClC=1C=C(C=CC1F)C1=NC2=CC=C(C=C2C(N1CC(=O)NC(C)C)=O)OCCCN1CCCCC1 | C27H32ClFN4O3
